US08232289B2
To a solution of 2′-chloro-4′,4′-difluoro-4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran] (0.2 g, 0.71 mmol) in 1,2-dichloroethane (5 mL) are added 1-(3-chloro-2-pyridyl)-3-methyl-pyrazole-4-carbaldehyde (0.19 g, 0.86 mmol) and a few drops of acetic acid. The reaction mixture is stirred at room temperature for 1 hour. Sodium triacetoxyborohydride (0.315 g, 1.43 mmol) is added and stirred at room temperature for 14 hours. After completion, the reaction mixture is diluted with dichloromethane and washed with saturated sodium bicarbonate solution and brine. The organic phase is dried over sodium sulfate and concentrated in vacuo. The crude mixture is purified by HPLC to yield 0.195 g (56%) of 2-chloro-1′-[[1-(3-chloro-2-pyridyl)-3-methyl-pyrazol-4-yl]methyl]-4,4-difluoro-spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine]. MS (m/z): 485 (M+1).

reactant | 2′-chloro-4′,4′-difluoro-4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran] | 0.71 mmol, 0.2 g | ClC1=CC2=C(C3(OCC2(F)F)CCNCC3)S1 | C11H12ClF2NOS
reactant | 1-(3-chloro-2-pyridyl)-3-methyl-pyrazole-4-carbaldehyde | 0.86 mmol, 0.19 g | ClC=1C(=NC=CC1)N1N=C(C(=C1)C=O)C | C10H8ClN3O
reactant | Sodium triacetoxyborohydride | 1.43 mmol, 0.315 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-chloro-1′-[[1-(3-chloro-2-pyridyl)-3-methyl-pyrazol-4-yl]methyl]-4,4-difluoro-spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine] | 0.195 g, 56% | ClC1=CC2=C(S1)C1(CCN(CC1)CC=1C(=NN(C1)C1=NC=CC=C1Cl)C)OCC2(F)F | C21H20Cl2F2N4OS
